*half_adder
.subckt half_adder A B S C VDD GND
Mp1 x1 A VDD VDD p_18 W=1u L=0.18u m=1
Mp2 x2 A_ VDD VDD p_18 W=1u L=0.18u m=1
Mp3 S B_ x1 VDD p_18 W=1u L=0.18u m=1
Mp4 S B x2 VDD p_18 W=1u L=0.18u m=1

Mp5 A_ A VDD VDD p_18 W=1u L=0.18u m=1

Mp6 B_ B VDD VDD p_18 W=1u L=0.18u m=1

Mn7 S A x3 GND n_18 W=0.5u L=0.18u m=1
Mn8 S B_ x3 GND n_18 W=0.5u L=0.18u m=1
Mn9 x3 A_ GND GND n_18 W=0.5u L=0.18u m=1
Mn10 x3 B GND GND n_18 W=0.5u L=0.18u m=1

Mn11 A_ A GND GND n_18 W=0.5u L=0.18u m=1

Mn12 B_ B GND GND n_18 W=0.5u L=0.18u m=1




Mp12 nout B VDD VDD p_18 W=1u L=0.18u m=1
Mp13 nout A VDD VDD p_18 W=1u L=0.18u m=1
Mn14 nout A y1 GND n_18 W=0.5u L=0.18u m=1
Mn15 y1 B GND GND n_18 W=0.5u L=0.18u m=1

Mp16 C nout VDD VDD p_18 W=1u L=0.18u m=1
Mn17 C nout GND GND n_18 W=0.5u L=0.18u m=1
.ends
