***inverter netlist***

.subckt inv Vin Vout VDD! GND!
**********************
* write your design here ~*
MpMos Vout Vin VDD! VDD! p_18 W=1u L=0.18u
MnMos Vout Vin GND! GND! n_18 W=0.5u L=0.18u
**********************
.ends
