***  Testbench  ***
.INC 'half_adder.netlist'
.GLOBAL gnd 
+ vdd 

.protect 
.lib './cic018/model/cic018.l' TT $根據你檔案路徑更改
.unprotect

.op
.options post

.tran 0.05n 150n
.temp 25

*****************************
**  input pin : X, Y
**  output pin: S, C
*****************************
xname X Y S C  VDD  GND  nand  $根據你的子電路名稱做修改 
*********************************
* 如 .subckt (nand) X Y F VDD GND 括號內為你子電路的名稱 
**************************  

v1 VDD   0v  DC 1.8v
v2 GND  0v  DC  0v
v3 X  0 pulse( 0v 1.8v 15n 5n 5n 20n 50n)
v4 Y  0 PWL (0n 1.8v , 30n 1.8v, 35n 0v, 65n 0v, 70n 1.8v, 100n 1.8v, 105n 0v)
.end

