*nor
.subckt nor vout X Y vdd! gnd!
Mp1 a X vdd! vdd! p_18 W=1u L=0.18u m=1
Mp2 vout Y a vdd! p_18 W=1u L=0.18u m=1
Mn1 vout Y gnd! gnd! n_18 W=0.5u L=0.18u m=1
Mn2 vout X gnd! gnd! n_18 W=0.5u L=0.18u m=1
.ends
