* File: half_adder.pex.netlist.pex
* Created: Wed Jun  6 15:23:10 2018
* Program "Calibre xRC"
* Version "v2017.4_19.14"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_HALF_ADDER%1 9 14 21 24
c0 36 0 0.895811f
c1 35 0 0.0536748f
c2 34 0 0.0553106f
c3 26 0 0.119581f
c4 21 0 1.42985f
c5 17 0 0.600431f
c6 6 0 0.983348f
c7 5 0 0.080511f
c8 3 0 0.298683f
r9 34 36 0.032945
r10 34 35 8
r11 30 31 8
r12 26 28 5.17308
r13 26 35 13.2552
r14 21 24 473.25
r15 19 28 4.71363
r16 19 24 70.25
r17 17 31 0.237821
r18 16 17 16.3327
r19 14 16 4.608
r20 12 31 0.640769
r21 11 12 8.16635
r22 9 11 2.304
r23 6 30 1.25053
r24 5 36 1.09532
r25 3 5 0.0367168
r26 2 6 0.0363416
r27 2 3 0.448673
.ends

.subckt PM_HALF_ADDER%S 17 18 22 23 30
c0 30 0 0.616403f
c1 26 0 0.100111f
c2 21 0 0.169292f
c3 16 0 0.250126f
c4 13 0 0.509066f
c5 9 0 0.782118f
c6 7 0 0.172806f
r7 26 34 0.0465054
r8 25 26 16.3327
r9 23 25 4.608
r10 22 25 4.572
r11 20 21 8.16635
r12 18 20 2.304
r13 17 20 2.286
r14 16 21 0.0466849
r15 14 16 0.789783
r16 13 34 1.50652
r17 10 30 0.247526
r18 9 10 8
r19 7 14 0.0942576
r20 7 13 0.0942576
r21 7 9 0.333815
.ends

.subckt PM_HALF_ADDER%3 17 22 29 33
c0 45 0 0.0330101f
c1 39 0 0.036705f
c2 38 0 0.107591f
c3 33 0 0.149855f
c4 29 0 1.01541f
c5 25 0 0.345527f
c6 20 0 0.190352f
c7 13 0 0.0314824f
c8 7 0 0.0425289f
c9 6 0 1.25986f
c10 5 0 0.489492f
c11 2 0 1.53848f
r12 42 45 0.0338248
r13 39 42 8
r14 38 39 13.2552
r15 35 38 5.18936
r16 31 35 4.73303
r17 31 33 46.75
r18 27 35 4.73303
r19 27 29 403
r20 24 25 16.3327
r21 22 24 4.59
r22 19 20 8.16635
r23 17 19 2.295
r24 16 20 0.236205
r25 15 25 0.561615
r26 13 16 0.0362786
r27 13 15 0.0365897
r28 13 14 8
r29 6 14 0.0322421
r30 6 7 2.01955
r31 4 7 0.0352457
r32 4 5 0.952217
r33 2 5 0.0364883
r34 2 45 3.17291
.ends

.subckt PM_HALF_ADDER%B 25 29 33 36 44 48 73
c0 73 0 0.0496319f
c1 70 0 1.17081f
c2 68 0 0.033722f
c3 60 0 0.0369101f
c4 58 0 0.0463069f
c5 57 0 0.108972f
c6 54 0 0.108607f
c7 48 0 0.183148f
c8 44 0 0.130297f
c9 40 0 0.0598015f
c10 37 0 0.150147f
c11 33 0 1.53902f
c12 29 0 0.281131f
c13 25 0 0.312848f
c14 22 0 0.956769f
c15 19 0 0.0271242f
c16 15 0 0.0553467f
c17 14 0 0.0160669f
c18 13 0 1.51027f
c19 11 0 0.041548f
c20 10 0 5.2572f
c21 7 0 0.604429f
c22 5 0 0.275549f
c23 3 0 0.0460439f
c24 2 0 0.822923f
r25 68 70 0.0342789
r26 64 73 8
r27 58 68 8
r28 57 59 5.08779
r29 57 58 13.2552
r30 51 54 5.72553
r31 51 73 13.2552
r32 46 60 8.33584
r33 46 48 70.5
r34 42 60 8.33584
r35 42 44 46.5
r36 39 40 13.2552
r37 37 60 1.53246
r38 37 39 9.67924
r39 33 36 473.25
r40 31 59 4.70391
r41 31 36 119.75
r42 27 54 4.73303
r43 27 29 112
r44 23 54 4.73303
r45 23 25 121.25
r46 21 22 8
r47 19 40 0.0628571
r48 19 21 0.00642857
r49 15 22 1.7901
r50 12 15 0.0426079
r51 12 13 1.12976
r52 10 13 0.0384478
r53 10 11 6.89142
r54 9 14 0.0103031
r55 9 70 1.74735
r56 7 11 0.0374806
r57 6 14 0.0239929
r58 6 7 1.001
r59 5 14 0.0239929
r60 4 5 0.47125
r61 3 64 0.0334705
r62 2 4 0.0365102
r63 2 3 1.19364
.ends

.subckt PM_HALF_ADDER%A 20 22 26 30 34 40 78
c0 71 0 0.00291924f
c1 69 0 0.169311f
c2 64 0 0.0412858f
c3 58 0 0.103847f
c4 57 0 0.0491543f
c5 56 0 0.038941f
c6 54 0 0.112939f
c7 52 0 0.0612221f
c8 49 0 0.0535097f
c9 46 0 0.118435f
c10 43 0 0.209912f
c11 34 0 0.172408f
c12 30 0 0.491033f
c13 26 0 0.11336f
c14 20 0 1.32436f
c15 14 0 0.0564555f
c16 13 0 0.677832f
c17 10 0 0.365053f
c18 8 0 0.528231f
c19 7 0 0.0710931f
c20 6 0 4.03819f
c21 5 0 0.490171f
c22 3 0 0.0302376f
c23 2 0 2.19048f
r24 68 71 0.0327267
r25 68 69 8
r26 57 58 2.43243
r27 52 78 0.0192889
r28 52 64 8
r29 51 54 6.12766
r30 51 52 13.2552
r31 49 60 8
r32 48 49 13.2552
r33 46 48 4.52705
r34 43 69 13.2552
r35 41 56 1.61877
r36 41 43 14.6757
r37 40 58 32.5
r38 36 56 8.56897
r39 36 57 22
r40 32 56 8.56897
r41 32 34 58.75
r42 28 54 4.73303
r43 28 30 195
r44 24 54 4.73303
r45 24 26 38.25
r46 20 22 473.25
r47 18 46 5.00671
r48 18 20 69.75
r49 12 13 0.861978
r50 10 13 0.0377044
r51 10 71 0.609632
r52 9 14 0.0508322
r53 8 64 0.0332917
r54 8 9 0.972833
r55 6 12 0.0291621
r56 6 7 4.06135
r57 5 14 0.00717208
r58 4 7 0.0437323
r59 4 5 0.350936
r60 3 60 0.0331617
r61 2 14 0.0508322
r62 2 3 4.42722
.ends

.subckt PM_HALF_ADDER%noxref_6 2 3
c0 5 0 0.179193f
r1 3 5 2.304
r2 2 5 2.286
.ends

.subckt PM_HALF_ADDER%noxref_7 2 3
c0 5 0 0.174385f
r1 3 5 2.304
r2 2 5 2.286
.ends

.subckt PM_HALF_ADDER%noxref_8 14 19 20 24
c0 33 0 0.0637775f
c1 30 0 0.0333465f
c2 27 0 0.0433527f
c3 23 0 0.0742501f
c4 17 0 0.0372183f
c5 13 0 0.0332371f
c6 11 0 0.0499031f
c7 10 0 0.129266f
c8 9 0 0.0632479f
c9 5 0 0.031038f
c10 4 0 0.185805f
r11 27 37 0.0343797
r12 26 27 16.3327
r13 24 26 4.608
r14 23 34 0.0348205
r15 23 33 0.0351795
r16 22 23 16.3327
r17 20 22 4.608
r18 19 22 4.572
r19 17 30 0.0351795
r20 16 17 16.3327
r21 14 16 4.572
r22 13 37 0.0888462
r23 10 13 0.0397791
r24 10 11 0.223548
r25 9 11 0.0397063
r26 9 34 0.09
r27 6 33 0.0909091
r28 4 6 0.0397063
r29 4 5 0.224677
r30 2 5 0.0395708
r31 2 30 0.0933333
.ends

.subckt PM_HALF_ADDER%9 4 9
c0 18 0 0.0552044f
c1 16 0 0.0552061f
c2 12 0 0.0734769f
r3 16 18 0.0854545
r4 12 18 0.035
r5 11 12 16.3327
r6 9 11 4.59
r7 7 16 0.035
r8 6 7 16.3327
r9 4 6 4.59
.ends

.subckt PM_HALF_ADDER%10 11 16 21 28 32
c0 47 0 2.30926f
c1 44 0 0.251418f
c2 38 0 0.113551f
c3 36 0 0.0652396f
c4 32 0 0.281204f
c5 28 0 0.31292f
c6 24 0 0.0465677f
c7 10 0 0.0498821f
c8 7 0 0.0378161f
c9 5 0 0.0592702f
c10 4 0 0.0818238f
c11 3 0 0.149215f
r12 36 47 0.0413791
r13 35 38 6.03191
r14 35 36 13.2552
r15 30 38 4.73303
r16 30 32 112
r17 26 38 4.73303
r18 26 28 121.25
r19 24 42 0.0348205
r20 23 24 16.3327
r21 21 23 4.59
r22 19 44 0.0346796
r23 18 19 8.16635
r24 16 18 2.295
r25 14 44 0.0345995
r26 13 14 8.16635
r27 11 13 2.295
r28 9 10 0.0345471
r29 9 47 6.19667
r30 7 10 0.00388196
r31 7 42 0.0847368
r32 4 10 0.0345471
r33 4 5 0.154444
r34 3 44 0.0247527
r35 2 5 0.0412345
r36 2 3 0.215158
.ends

.subckt PM_HALF_ADDER%GND 15 51 182 187 188 192 197 202
c0 229 0 0.0453873f
c1 205 0 0.181976f
c2 200 0 0.0545495f
c3 195 0 0.198565f
c4 191 0 0.370446f
c5 185 0 0.179737f
c6 180 0 0.00699972f
c7 149 0 0.0558013f
c8 128 0 0.00729217f
c9 100 0 8.70622e-19
c10 97 0 0.00152591f
c11 81 0 0.00699972f
c12 46 0 0.0386199f
c13 45 0 1.29289e-21
c14 44 0 3.38949e-20
c15 41 0 0.644302f
c16 40 0 8.48485e-22
c17 39 0 0.686223f
c18 37 0 0.0423854f
c19 32 0 0.459588f
c20 31 0 0.651431f
c21 29 0 0.116583f
c22 26 0 0.00513897f
c23 24 0 3.05438f
c24 23 0 0.904186f
c25 19 0 0.182287f
c26 18 0 5.53286f
c27 17 0 0.734567f
c28 12 0 1.78545f
c29 11 0 0.0626544f
c30 8 0 0.00493959f
c31 6 0 2.22888f
c32 5 0 0.811096f
r33 204 205 16.3327
r34 202 204 4.59
r35 199 200 16.3327
r36 197 199 4.59
r37 194 195 16.3327
r38 192 194 4.59
r39 191 209 0.464154
r40 190 191 16.3327
r41 188 190 4.608
r42 187 190 4.572
r43 184 185 16.3327
r44 182 184 4.572
r45 179 180 16.3327
r46 177 180 0.156279
r47 176 179 18.383
r48 176 177 5.44423
r49 174 177 0.234419
r50 173 176 27.5745
r51 173 174 5.44423
r52 171 174 0.234419
r53 170 173 27.5745
r54 170 171 5.44423
r55 166 171 0.234419
r56 165 166 5.44423
r57 162 165 27.5745
r58 162 163 5.44423
r59 160 163 0.234419
r60 160 252 0.114767
r61 159 162 27.5745
r62 159 160 5.44423
r63 157 250 0.0411764
r64 157 252 0.0411764
r65 156 159 18.383
r66 156 157 16.3327
r67 153 250 0.0138372
r68 152 156 9.19149
r69 152 153 16.3327
r70 148 149 16.3327
r71 146 149 0.156279
r72 145 148 18.383
r73 145 146 5.44423
r74 142 146 0.234419
r75 142 245 0.127791
r76 139 245 0.0267115
r77 138 139 16.3327
r78 135 138 18.383
r79 135 136 8.16635
r80 131 135 9.19149
r81 131 136 16.3327
r82 127 128 16.3327
r83 125 128 0.156279
r84 124 127 18.383
r85 124 125 5.44423
r86 122 125 0.234419
r87 121 124 27.5745
r88 121 122 5.44423
r89 119 122 0.234419
r90 118 121 27.5745
r91 118 119 5.44423
r92 114 119 0.234419
r93 113 114 5.44423
r94 110 113 27.5745
r95 110 111 8.16635
r96 108 111 0.156279
r97 107 110 18.383
r98 107 108 5.44423
r99 104 108 0.234419
r100 103 107 27.5745
r101 103 104 5.44423
r102 100 233 0.014
r103 99 100 8.16635
r104 97 233 0.0409366
r105 96 99 9.19149
r106 96 97 16.3327
r107 94 209 0.00973347
r108 94 229 0.0273073
r109 93 96 18.383
r110 93 94 8.16635
r111 89 229 0.104837
r112 88 89 5.44423
r113 85 89 0.234419
r114 84 88 27.5745
r115 84 85 5.44423
r116 80 81 16.3327
r117 78 81 0.156279
r118 77 80 18.383
r119 77 78 5.44423
r120 75 78 0.234419
r121 74 77 27.5745
r122 74 75 5.44423
r123 72 75 0.234419
r124 71 74 27.5745
r125 71 72 5.44423
r126 67 72 0.234419
r127 66 67 5.44423
r128 64 221 0.0392326
r129 63 66 27.5745
r130 63 64 8.16635
r131 61 218 0.0853335
r132 61 221 0.0853335
r133 60 63 9.19149
r134 60 61 16.3327
r135 57 60 18.383
r136 57 61 5.44423
r137 54 218 0.0893721
r138 53 57 27.5745
r139 53 54 8.16635
r140 51 170 18.383
r141 51 165 9.19149
r142 51 145 27.5745
r143 51 138 18.383
r144 51 142 5.44423
r145 51 118 18.383
r146 51 113 9.19149
r147 51 93 9.13404
r148 51 88 9.24894
r149 51 71 18.383
r150 51 66 9.19149
r151 49 163 0.0756977
r152 49 50 0.0273073
r153 48 166 0.0952326
r154 48 50 0.0273073
r155 47 205 0.354667
r156 47 50 0.00973347
r157 44 111 0.0756977
r158 44 45 0.0273073
r159 43 114 0.0952326
r160 43 45 0.0273073
r161 42 195 0.354667
r162 42 45 0.00973347
r163 40 104 0.10093
r164 40 41 0.035
r165 39 41 1.16118
r166 35 64 0.0755349
r167 35 36 0.0273073
r168 34 67 0.0953953
r169 34 36 0.0273073
r170 33 185 0.354487
r171 33 36 0.00973347
r172 31 157 0.000536683
r173 30 31 0.817385
r174 29 200 0.0351795
r175 28 139 0.0102777
r176 28 29 0.276316
r177 27 136 0.0216643
r178 26 139 0.0267115
r179 26 27 0.10907
r180 25 46 0.0134024
r181 24 30 0.04608
r182 24 25 1.41623
r183 23 136 0.0183905
r184 22 46 0.0268887
r185 22 23 1.20425
r186 18 46 0.0134024
r187 18 19 2.70946
r188 17 39 0.376802
r189 16 19 0.0495643
r190 16 17 0.254314
r191 13 37 0.0163538
r192 13 15 0.769173
r193 12 17 0.0491654
r194 12 15 0.215236
r195 11 97 0.0003892
r196 10 37 0.0221685
r197 10 11 0.0813954
r198 9 94 0.0273073
r199 8 97 0.0409366
r200 8 9 0.103372
r201 7 32 0.0438725
r202 6 37 0.0163538
r203 6 7 1.26083
r204 5 61 0.0183235
r205 4 32 0.00213949
r206 4 5 0.225909
.ends

.subckt PM_HALF_ADDER%VDD 13 57 58 59 60 61 62 67 72 77 82 87 92
c0 251 0 0.0393817f
c1 248 0 0.00339538f
c2 232 0 0.035201f
c3 229 0 0.00202848f
c4 219 0 0.0080775f
c5 195 0 0.0046793f
c6 174 0 0.0080775f
c7 122 0 0.0080775f
c8 95 0 0.211607f
c9 85 0 0.07746f
c10 80 0 0.204342f
c11 75 0 0.32989f
c12 70 0 0.37376f
c13 65 0 0.208938f
c14 52 0 0.417359f
c15 48 0 0.0187606f
c16 47 0 0.0185467f
c17 45 0 0.0271633f
c18 40 0 0.0517701f
c19 39 0 0.0472961f
c20 34 0 0.338543f
c21 31 0 0.707468f
c22 27 0 0.0699581f
c23 25 0 0.0437112f
c24 24 0 0.0396f
c25 23 0 0.069873f
c26 20 0 2.79523f
c27 19 0 0.767451f
c28 18 0 0.00233199f
c29 16 0 4.16245f
c30 15 0 0.872895f
c31 10 0 3.59436f
c32 9 0 0.116811f
c33 8 0 0.00196015f
c34 6 0 1.94026f
c35 5 0 0.182794f
r36 218 219 8.16635
r37 216 219 0.156279
r38 215 218 18.383
r39 215 216 5.44423
r40 213 216 0.234419
r41 212 215 27.5745
r42 212 213 5.44423
r43 209 213 0.234419
r44 205 206 5.44423
r45 203 206 0.234419
r46 202 205 27.5745
r47 202 203 5.44423
r48 198 202 27.5745
r49 198 199 8.16635
r50 195 251 0.0273073
r51 194 195 8.16635
r52 192 251 0.0244186
r53 191 194 9.19149
r54 191 192 16.3327
r55 188 192 0.156279
r56 188 252 0.122093
r57 185 248 0.02701
r58 185 252 0.02701
r59 184 185 16.3327
r60 182 248 0.0496512
r61 182 249 0.0284884
r62 181 184 9.19149
r63 181 182 16.3327
r64 178 249 0.0194951
r65 177 181 9.19149
r66 177 178 16.3327
r67 173 174 8.16635
r68 171 174 0.156279
r69 170 173 18.383
r70 170 171 5.44423
r71 168 171 0.234419
r72 167 170 27.5745
r73 167 168 5.44423
r74 164 168 0.234419
r75 160 161 5.44423
r76 158 161 0.234419
r77 158 240 0.0960465
r78 157 160 27.5745
r79 157 158 5.44423
r80 154 240 0.0266471
r81 153 157 27.5745
r82 153 154 8.16635
r83 149 150 16.3327
r84 147 150 0.156279
r85 147 236 0.133651
r86 146 149 18.383
r87 146 147 5.44423
r88 144 268 0.00973347
r89 144 232 0.0273073
r90 144 236 0.0273073
r91 143 146 18.383
r92 143 144 16.3327
r93 141 232 0.115419
r94 140 143 18.383
r95 140 141 8.16635
r96 136 141 0.156279
r97 136 233 0.114116
r98 135 136 5.44423
r99 133 266 0.00973347
r100 133 229 0.0273073
r101 133 233 0.0273073
r102 132 135 18.383
r103 132 133 16.3327
r104 130 229 0.134953
r105 130 230 0.049
r106 129 132 18.383
r107 129 130 8.16635
r108 126 230 0.0249431
r109 125 129 18.383
r110 125 126 8.16635
r111 121 122 8.16635
r112 119 122 0.156279
r113 118 121 18.383
r114 118 119 5.44423
r115 116 119 0.234419
r116 115 118 27.5745
r117 115 116 5.44423
r118 112 116 0.234419
r119 108 109 8.16635
r120 106 109 0.156279
r121 106 221 0.0872558
r122 105 108 18.383
r123 105 106 5.44423
r124 103 221 0.0446231
r125 102 105 27.5745
r126 102 103 8.16635
r127 98 102 9.19149
r128 98 103 16.3327
r129 94 95 8.16635
r130 92 94 2.295
r131 89 90 8.16635
r132 87 89 2.295
r133 84 85 8.16635
r134 82 84 2.295
r135 79 80 8.16635
r136 77 79 2.295
r137 75 268 0.657821
r138 74 75 8.16635
r139 72 74 2.304
r140 70 266 0.657821
r141 69 70 8.16635
r142 67 69 2.286
r143 64 65 8.16635
r144 62 64 2.286
r145 61 212 27.5745
r146 61 205 27.5745
r147 61 209 5.44423
r148 60 191 18.383
r149 60 184 18.383
r150 60 188 5.44423
r151 59 167 27.5745
r152 59 160 27.5745
r153 59 164 5.44423
r154 58 140 9.19149
r155 58 135 9.19149
r156 57 115 27.5745
r157 57 108 27.5745
r158 57 112 5.44423
r159 55 206 0.0805814
r160 55 56 0.0273073
r161 54 209 0.0903488
r162 54 56 0.0273073
r163 53 95 0.402051
r164 53 56 0.00973347
r165 50 199 0.0944186
r166 50 51 0.0329982
r167 49 203 0.0602326
r168 49 51 0.0329982
r169 46 85 0.0861538
r170 46 47 0.035
r171 43 161 0.0805814
r172 43 44 0.0273073
r173 42 164 0.0903488
r174 42 44 0.0273073
r175 41 80 0.401872
r176 41 44 0.00973347
r177 37 109 0.0804186
r178 37 38 0.0273073
r179 36 112 0.0905116
r180 36 38 0.0273073
r181 35 65 0.402051
r182 35 38 0.00973347
r183 31 52 0.0268554
r184 30 51 0.00503023
r185 30 31 1.23214
r186 27 195 0.00973347
r187 27 48 0.192051
r188 25 48 0.0349114
r189 24 90 0.00301266
r190 24 25 0.0816962
r191 23 185 0.0100036
r192 23 47 0.194545
r193 21 45 0.0117468
r194 20 52 0.0134213
r195 20 21 1.65159
r196 19 45 0.0299886
r197 18 178 0.0196177
r198 18 19 1.57047
r199 17 40 0.0212114
r200 16 45 0.0117468
r201 16 17 2.35364
r202 15 40 0.0159144
r203 14 154 0.0174417
r204 14 15 0.840864
r205 11 39 0.0195705
r206 11 13 1.46473
r207 10 40 0.0212114
r208 10 13 0.718452
r209 9 39 0.0178619
r210 8 126 0.0178492
r211 8 9 0.12723
r212 7 34 0.0367774
r213 6 39 0.0195705
r214 6 7 1.12439
r215 5 34 0.00231121
r216 4 103 0.0137638
r217 4 5 0.0769551
.ends

.subckt PM_HALF_ADDER%C 2 7 15
c0 10 0 0.578583f
r1 10 15 0.425205
r2 9 10 16.3327
r3 7 9 4.59
r4 5 15 0.453205
r5 4 5 8.16635
r6 2 4 2.295
.ends

